US06232290B1
To a solution of 4-(5-amino-1,3,4-thiadiazol-2-yl)benzoic acid methyl ester trifluoroacetic acid salt (8 g) in water was added 1N sodium hydroxide and the mixture was adjusted to pH 8. The precipitate was collected by filtration to give 4-(5-amino-1,3,4-thiadiazol-2-yl)benzoic acid (5.05 g).

reactant | 4-(5-amino-1,3,4-thiadiazol-2-yl)benzoic acid methyl ester trifluoroacetic acid salt | 8 g | FC(C(=O)O)(F)F.COC(C1=CC=C(C=C1)C=1SC(=NN1)N)=O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(5-amino-1,3,4-thiadiazol-2-yl)benzoic acid | 5.05 g | NC1=NN=C(S1)C1=CC=C(C(=O)O)C=C1 | C9H7N3O2S
